US07297700B2
Preparation of 7-benzyl-3-methyl-5,6,7,8-tetrahydro-[2,7]naphthyridine-4-carboxylic acid(adamantan-1-ylmethyl)-amide
7-benzyl-5,6,7,8-tetrahydro-3-methyl-2,7-naphthyridine-4-carboxamide (40 mg, 0.142 mmol) was taken up in anhydrous DMF (0.5 ml) under an inert atmosphere. NaH (60% in mineral oil) (6.8 mg, 0.17 mmol) was added to the reaction vessel and the mixture stirred for 30 minutes until the evolution of hydrogen gas ceased. To this mixture was added 1-adamantylmethylbromide in DMF (0.5 ml) and reaction was stirred at room temperature for 4 hr. The reaction was monitored by TLC and LCMS. Excess NaH and 1-adamantylmethylbromide and heated from 40 to 75° C. for 3 days. The mixture was cooled to room temperature, and added to ice water. The aqueous layer was extracted with EtOAc, washed with water, brine, dried over sodium sulfate, and reduced in vacuo. The crude was purified by flash chromatography followed by prep. TLC using MeOH:DCM (5-10%) to afford the title compound. (5 mg, 8%).

reactant | 7-benzyl-5,6,7,8-tetrahydro-3-methyl-2,7-naphthyridine-4-carboxamide | 0.142 mmol, 40 mg | C(C1=CC=CC=C1)N1CCC=2C(=C(N=CC2C1)C)C(=O)N | C17H19N3O
reactant | NaH | 0.17 mmol, 6.8 mg | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 1-adamantylmethylbromide | C12(CC3CC(CC(C1)C3)C2)CBr | C11H17Br
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
product | 7-benzyl-3-methyl-5,6,7,8-tetrahydro-[2,7]naphthyridine-4-carboxylic acid(adamantan-1-ylmethyl)-amide | C12(CC3CC(CC(C1)C3)C2)CNC(=O)C2=C(N=CC=3CN(CCC23)CC2=CC=CC=C2)C | C28H35N3O
